US07834021B2
Benzyl (3S,4S)-3-(Allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate.
To a solution of 26 g (77 mmol) of benzyl 3-[(tert-butoxycarbonyl)amino]4-hydroxypyrrolidine-1-carboxylate in 120 mL of THF was added 5 g (211 mmol) of sodium hydride at 0° C. The reaction mixture was stirred at 0° C. for 1 h, then 10 mL (115 mmol) of allyl bromide was added. The reaction mixture was warmed up to room temperature and continuously stirred at room temperature overnight. Water (50 mL) was added to quench the reaction. The organic phase was separated, and the aqueous layer was extracted with ethyl acetate twice (100 mL×2). The combined extracts were washed with brine, dried over Na2SO4, evaporated under reduced pressure. Chromatography on silica gel column with 25% EtOAc-hexane provided the title compound (21.3 g, 73%). MS (M+H)+ 377.

reactant | benzyl 3-[(tert-butoxycarbonyl)amino]4-hydroxypyrrolidine-1-carboxylate | 77 mmol, 26 g | C(C)(C)(C)OC(=O)NC1CN(CC1O)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
reactant | sodium hydride | 211 mmol, 5 g | [H-].[Na+]
reactant | allyl bromide | 115 mmol, 10 mL | C(C=C)Br | C3H5Br
reactant | Water | 50 mL | O | H2O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | Benzyl (3S,4S)-3-(Allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate | 21.3 g, 73% | C(C=C)O[C@H]1CN(C[C@@H]1NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
